US04673746
3-chloro-2,4-dimethoxybenzaldehyde (2.75 g) is refluxed for 30 minutes in 20 ml of dichloroethane containing 1.8 g of AlCl3. The reaction mixture is then poured into H2O and extracted with CH2Cl2. Evaporation and recrystallization from isopropanol gives 3-chloro-2-hydroxy-4-methoxybenzaldehyde, mp 125° C.

reactant | 3-chloro-2,4-dimethoxybenzaldehyde | 2.75 g | ClC=1C(=C(C=O)C=CC1OC)OC | C9H9ClO3
reactant | AlCl3 | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | H2O | O | H2O
solvent | dichloroethane | 20 ml, 1.8 g | ClC(C)Cl | C2H4Cl2
product | 3-chloro-2-hydroxy-4-methoxybenzaldehyde | ClC=1C(=C(C=O)C=CC1OC)O | C8H7ClO3
